US05258547
A mixture of 2,2,2-trifluoroethyl bromide (9.8 g), sodium sulphide nonahydrate (14.4 g), sulphur (1.9 g), hexadecyl tributyl phosphonium bromide (1.0 g) and water (18.0 g) was charged to a Carius tube under a nitrogen atmosphere and the tube sealed. The tube was heated to 70° C. for 8 hours, cooled and the contents subjected to steam distillation to give bis-(2,2,2-trifluoroethyl) disulphide as an oil in a yield of 67° C. The product was identified by GC-mass spectroscopy.

reactant | 2,2,2-trifluoroethyl bromide | 9.8 g | FC(CBr)(F)F | C2H2BrF3
reactant | sodium sulphide nonahydrate | 14.4 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sulphur | 1.9 g | [S] | S
catalyst | hexadecyl tributyl phosphonium bromide | 1.0 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 18.0 g | O | H2O
product | bis-(2,2,2-trifluoroethyl) disulphide | FC(CSSCC(F)(F)F)(F)F | C4H4F6S2
